Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:14].[O:3]=[C:4]([H:12])[H:13]>>[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],38.615107509366894
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O+:1]1=[C:2]([H:8])[N:3]([H:9])[C-:4]([H:10])[C:5]([H:12])([H:13])[C:6]([H:11])=[C:7]1[H:14],83.5419176480191
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C-:2]#[O+:3].[C-:4]#[O+:5].[C:1]([C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],106.75565142926901
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])[H:10],69.36431111705521
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C-:2]#[O+:3].[C:1]([O:7][C:6](=[C:4]=[O:5])[H:11])([H:8])([H:9])[H:10],74.27629538997141
[C:1]([C@:2]1([C:4][O:5][H:13])[C:3]([H:11])([H:12])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],59.78655648649399
[N:1]([C:2](=[O:3])[C:4]([H:10])[H:11])([H:8])[H:9].[O:5]=[C:6]([O:7])[H:12]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],5.557532199760203
[O:1]([C:4](=[C:3]=[C:2]([H:8])[H:9])[C:5]#[N:6])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],65.09758912402474
[C:1]([C:4]#[N:5])([H:6])([H:7])[H:8].[O:2]=[C:3]([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8],91.43905668482668
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3]/[C:4](=[C:5](\[O:6][H:16])[H:14])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:15],85.5676305698522
[N:1]([C:2](=[N:3][N:4][H:9])[N+:6]#[C:5][H:10])([H:7])[H:8]>>[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8],26.346363938057593
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:3][H:12])[C:4]([H:13])([H:14])[N:5]([H:15])[C@:6]1([O:7][H:11])[H:16])([H:8])([H:9])[H:10],89.38860601067341
[C:1]1([H:8])=[C:2]2[C:3]1=[C:4]([H:9])[C:5]([H:10])=[C:6]([H:11])[O:7]2>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],35.838285709061495
[C:1](=[N+:2]1[C:3]([H:10])=[N:4][N:5]([H:7])[N-:6]1)([H:8])[H:9]>>[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][n:6]1)([H:7])([H:8])[H:9],68.93834829800119
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:15])([H:16])[N:5]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],49.9832436679118
[C:3](=[N+:4]=[N-:5])([H:7])[H:9].[N:1](=[C:2]=[O:6])[H:8]>>[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8],36.49394619340684
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[H:10][H:12].[N:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],87.0885477523386
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])=[C:5]=[N:6][H:10])([H:7])([H:8])[H:9],66.45403571186941
[C:1]([C:2](=[C:3]([H:11])[H:13])[C:4]([O:5][C:6]#[N:7])([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][H:16]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],44.606427322173104
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[C:3](=[O:4])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11].[N:1](=[C:2])[H:7],58.813392688731604
[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([H:9])[H:10])([H:6])[H:8].[C:3](=[C:4]=[N:5][H:7])([H:11])[H:12],55.20209353463161
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:3]([C:2]([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])[H:15],114.800526156898
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[C:5]=[C:6]=[C:7]([H:18])[H:19])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:17],67.68261487064629
[C:1]([C:2]([C:3][C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],3.156732952991703
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:3][C:2]([N:5]([C+:4]=[C:6]=[N-:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],113.100435759026
